### PR TITLE
[Merged by Bors] - feat(Algebra/Ring/Basic): add `a / -b = -a / b`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/Basic.lean [hunk 1]
```diff
@@ -279,17 +279,19 @@ lemma div_neg_eq_neg_div (a b : R) : b / -a = -(b / a) :=
...
 
 @[simp]
 lemma neg_div_neg_eq (a b : R) : -a / -b = a / b := by rw [div_neg_eq_neg_div, neg_div, neg_neg]
 
 lemma neg_inv : -a⁻¹ = (-a)⁻¹ := by rw [inv_eq_one_div, inv_eq_one_div, div_neg_eq_neg_div]
 
-lemma div_neg (a : R) : a / -b = -(a / b) := by rw [← div_neg_eq_neg_div]
+lemma div_neg (a : R) : a / -b = -(a / b) := div_neg_eq_neg_div ..
+
+lemma div_neg_eq_neg_div' (a : R) : a / -b = -a / b := neg_div b a ▸ div_neg _
```
Comment (joelriou) [inline Mathlib/Algebra/Ring/Basic.lean:291]: This lemma seems ok to be, but could you revert the other changes, as I do not think replacing short `rw/simp` proofs by a term is an improvement.

**Comment by SnirBroshi** [comment]
-awaiting-author

**Comment by joelriou** [comment]
Thanks!

bors merge
